US06559162B2
(iii) 4-(4-Cyanophenyl)-4-[4-(tetrahydro-2H-pyran-2-yloxy)phenoxy]butyl Methanesulfonate
A solution of 4-{4-hydroxy-1-[4-(tetrahydro-2H-pyran-2-yloxy)phenoxy]butyl}benzonitrile (see step (ii) above; 2.37 g, 6.45 mmol) and TEA (1.35 mL, 9.68 mmol) in DCM (10 mL) was cooled to −5° C. Methanesulfonyl chloride (0.65 mL, 8.38 mmol) in DCM (5 mL) was added slowly. After addition was complete, the temperature was maintained below 5° C. for 1 h before DCM and water were added. The organic layer was washed with water, dried (Na2SO4) and then evaporated to yield 2.87 g (100%) of the sub-title compound. This was used in the next step without further purification.

reactant | 4-{4-hydroxy-1-[4-(tetrahydro-2H-pyran-2-yloxy)phenoxy]butyl}benzonitrile | OCCCC(OC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C#N)C=C1 | C22H25NO4
reactant | Methanesulfonyl chloride | 8.38 mmol, 0.65 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Cyanophenyl)-4-[4-(tetrahydro-2H-pyran-2-yloxy)phenoxy]butyl Methanesulfonate | 2.87 g, 100% | CS(=O)(=O)OCCCC(OC1=CC=C(C=C1)OC1OCCCC1)C1=CC=C(C=C1)C#N | C23H27NO6S
